US05532235
N-[4-[(4,5-Dihydropyrazolo[3,4-d]pyrido[2,3-b]azepin-6(1H)-yl)carbonyl]phenyl][1,1'-biphenyl]-2-carboxamide
As described for Example 1, a solution of 2 mmol of 4-(4-aminobenzoyl)-4,5-dihydropyrazolo[3,4-d]pyrido[2,3-b]azepine and 10 mmol of triethylamine is stirred with [1,1'-biphenyl]-2-carbonyl chloride in dichloromethane for 16 hours at room temperature. The initial solid is stirred with 1N NaOH in methanol as described in Example 1 to give the product as a solid.

reactant | 4-(4-aminobenzoyl)-4,5-dihydropyrazolo[3,4-d]pyrido[2,3-b]azepine | 2 mmol | NC1=CC=C(C(=O)C2C=3C(=C4C(=NC2)N=CC=C4)N=NC3)C=C1 | C17H13N5O
reactant | triethylamine | 10 mmol | C(C)N(CC)CC | C6H15N
reactant | [1,1'-biphenyl]-2-carbonyl chloride | C=1(C(=CC=CC1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | N-[4-[(4,5-Dihydropyrazolo[3,4-d]pyrido[2,3-b]azepin-6(1H)-yl)carbonyl]phenyl][1,1'-biphenyl]-2-carboxamide | N1N=CC2=C1C1=C(N(CC2)C(=O)C2=CC=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)N=CC=C1 | C30H23N5O2
